US07312241B2
Bis-(4-methoxy-phenyl)-methanone (2.42 g, 10 mmol), cyano-methylphosphonic acid diethyl ester (1.6 ml, 10 mmol) in anhydrous THF (10 ml), and sodium hydride (0.48 g, 10 mmol) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile. The crude material was purified by flash column chromatography to give 3,3-bis-(4-methoxy-phenyl)-acrylonitrile as a solid (1.84 g, 69%): 1H NMR (CDCl3) δ 7.39 (d, J=8.7 Hz, 1H, Ar), 7.25 (d, J=8.7 Hz, 1H, Ar), 6.95 (d,j=8.7 Hz, 1H, Ar), 6.88 (d, J=8.7 Hz, 1H, Ar), 5.54 (s, 1H, CH), 3.86, 3.83 (2s, 6H, CH3); 13C NMR (CDCl3) δ 162.3, 161.4, 160.9, 131.7, 131.3, 130.1, 129.5, 118.7, 113.9, 113.8, 91.5, 55.4, 55.3; Anal. Calcd. For C17H15NO2: C, 76.94; H, 5.70; N, 5.27. Found: C, 76.83; H, 5.64; N, 5.17.

reactant | Bis-(4-methoxy-phenyl)-methanone | 10 mmol, 2.42 g | COC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC | C15H14O3
reactant | sodium hydride | 10 mmol, 0.48 g | [H-].[Na+]
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,3-bis-(4-methoxy-phenyl)-acrylonitrile | 1.84 g, 69% | COC1=CC=C(C=C1)C(=CC#N)C1=CC=C(C=C1)OC | C17H15NO2
